US04027027
A solution of 4.92 g of 1-(o-methyl-phenoxy)-2,3-epoxypropane and 4.59 g of 2-methyl-3-(2-amino-ethoxy)pyrazine in 150 ml of isopropanol is stirred for 24 hours at about 20° C. and thereafter a further 1.47 g of 1-(o-methyl-phenoxy)-2,3-epoxy-propane are added. After standing for a further 24 hours at about 20° C., the reaction mixture is evaporated under a waterpump vacuum, the residue is dissolved in ether, the ether solution is extracted by shaking with 2 N hydrochloric acid and the combined hydrochloric acid extracts are rendered alkaline with sodium hydroxide solution and extracted by shaking with ether. The combined ether extracts are washed with water, dried over sodium sulphate and evaporated under a waterpump vacuum. The residue crystallises from methylene chloride/petroleum ether, giving 1-[2-(2-methyl-3-pyrazinyloxy)-ethyl-amino]-3-(2-methyl-phenoxy)-2-propanol; melting point 82°-84° C. The acid fumarate prepared with the calculated amount of fumaric acid crystallises from isopropanol, melting point 140°-141° C.

reactant | 1-(o-methyl-phenoxy)-2,3-epoxypropane | 4.92 g | CC1=C(OCC2CO2)C=CC=C1 | C10H12O2
reactant | 2-methyl-3-(2-amino-ethoxy)pyrazine | 4.59 g | CC1=NC=CN=C1OCCN | C7H11N3O
reactant | 1-(o-methyl-phenoxy)-2,3-epoxy-propane | 1.47 g | CC1=C(OCC2CO2)C=CC=C1 | C10H12O2
solvent | isopropanol | 150 ml | C(C)(C)O | C3H8O
product | 1-[2-(2-methyl-3-pyrazinyloxy)-ethyl-amino]-3-(2-methyl-phenoxy)-2-propanol | CC1=NC=CN=C1OCCNCC(COC1=C(C=CC=C1)C)O | C17H23N3O3
